US07601714B2
To a solution of 1-azidomethyl-2-iodo-benzene (6.1 g, 23.4 mmol) in anhydrous THF (100 mL) was added triphenylphosphine (6.8 g, 25.7 mmol) at 0° C. The reaction mixture was slowly warmed up to room temperature and stirred for 16 h. The mixture was diluted with ammonium hydroxide (20 mL) and stirred for 3 h. The mixture was then treated with 2M NaOH (30 mL) and stirred for 1 h. The reaction mixture was acidified to pH 2 by adding 3 M HCl. The mixture was diluted with ether and the layers were separated. The aqueous layer was basified to pH 9 by adding 2 M NaOH and then extracted with CH2Cl2 (×3). The combined organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo to yield an oily residue. The resulting residue was treated with ether and filtered. The filtrate was purified by silica gel column chromatography using 95:5 CH2Cl2:MeOH as an eluent to afford 5.4 g (80%) of 2-iodobenzylamine.

reactant | 1-azidomethyl-2-iodo-benzene | 23.4 mmol, 6.1 g | N(=[N+]=[N-])CC1=C(C=CC=C1)I | C7H6IN3
reactant | triphenylphosphine | 25.7 mmol, 6.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NaOH | 2M, 30 mL | [OH-].[Na+]
reactant | HCl | 3 M | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ammonium hydroxide | 20 mL | [OH-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 2-iodobenzylamine | 5.4 g, 80% | IC1=C(CN)C=CC=C1 | C7H8IN
